US07465809B2
2-Methyl-N-(4-cyano-3-trifluoromethyl-phenyl)-acrylamide
Methyl acrylic acid (510 mg, 6 mmol) in DMA (10 ml) was treated with thionyl chloride (714 mg, 6 mmol) at 0° C. The mixture was stirred for 30 min then 4-cyano-3-trifluoromethyl-aniline (1.0 g, 6.0 mmol) was added. The resulting suspension was stirred overnight and then quenched with NaHCO3. The reaction mixture was extracted with ethyl acetate, washed with brine and dried with Na2SO4. The resulting concentrated crude product was purified on column (Ethyl acetate:Hexane, 1:2) to yield the title compound as a yellow solid.

reactant | Methyl acrylic acid | 6 mmol, 510 mg | CC(C(=O)O)=C | C4H6O2
reactant | thionyl chloride | 6 mmol, 714 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 4-cyano-3-trifluoromethyl-aniline | 6.0 mmol, 1.0 g | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | 2-Methyl-N-(4-cyano-3-trifluoromethyl-phenyl)-acrylamide | CC(C(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)=C | C12H9F3N2O
